US09085555B2
6-Chloro-3-isocyanato-indole-1-carboxylic acid amide
was prepared from 6-chloroindole using the protocol described for steps B-E in scheme A4 for the preparation of 5-allyloxy-3-isocyanato-indole-1-carboxylic acid amide.

reactant | 6-chloroindole | ClC1=CC=C2C=CNC2=C1 | C8H6ClN
reactant | 5-allyloxy-3-isocyanato-indole-1-carboxylic acid amide | C(C=C)OC=1C=C2C(=CN(C2=CC1)C(=O)N)N=C=O | C13H11N3O3
product | 6-Chloro-3-isocyanato-indole-1-carboxylic acid amide | ClC1=CC=C2C(=CN(C2=C1)C(=O)N)N=C=O | C10H6ClN3O2
